US05240935
A mixture of ethyl 8-ethyl-2,3-di(phenylmethyl)-2-azabicyclo[2.2.2]oct-7-ene-6-carboxylate (132 g, 0.31 mol) in 48% HBr (1300 mL) was refluxed for 30 minutes, then acetic acid (650 mL) was added and the mixture was refluxed for an additional 24 hours. A precipitate formed which was collected by filtration and washed with acetic acid/ether to afford 20.8 g of 2.3-di(phenylmethyl)-8-ethylidene-2-azabicyclo[2.2.2]octane-6-carboxylic acid hydrobromide, m.p. 251°-253° C. (dec.). Additional crops of the product were obtained by cooling the filtrate in an ice-bath and collecting the crystals that formed by filtration. A total of 69.8 g (50%) of the product was obtained in this manner.

reactant | ethyl 8-ethyl-2,3-di(phenylmethyl)-2-azabicyclo[2.2.2]oct-7-ene-6-carboxylate | 0.31 mol, 132 g | C(C)C1=CC2N(C(C1CC2C(=O)OCC)CC2=CC=CC=C2)CC2=CC=CC=C2 | C26H31NO2
reactant | acetic acid | 650 mL | C(C)(=O)O | C2H4O2
reactant | HBr | 1300 mL | Br | BrH
product | 2.3-di(phenylmethyl)-8-ethylidene-2-azabicyclo[2.2.2]octane-6-carboxylic acid hydrobromide | 20.8 g | Br.C1(=CC=CC=C1)CN1C2C(CC(C1CC1=CC=CC=C1)C(C2)=CC)C(=O)O | InChI=1S/C24H27NO2.BrH/c1-2-19-14-23-21(24(26)27)15-20(19)22(13-17-9-5-3-6-10-17)25(23)16-18-11-7-4-8-12-18;/h2-12,20-23H,13-16H2,1H3,(H,26,27);1H
